US07067540B2
4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one
A mixture of 4-hydroxy-6-methyl-2-pyrone (5.0 g, 0.04 mol) and 5-aminomethyl-2-methylpyrazine (5.0 g, 0.041 mol) in water (25.0 ml) was heated at 100° C. for 1 h under argon atmosphere. The reaction mixture was cooled, and filtered the yellow precipitate. It was washed with ethanol, and dried in vacuo to afford the title compound (5.8 g, 63%) as a pale yellow powder: 1H NMR (DMSO-d6/400 MHz) δ 10.43 (br, 1H), 8.38 (d, 2H, J=5.2 Hz), 5.77 (d, 1H, J=2.0 Hz), 5.58 (d, 1H, J=2.0 Hz), 4.92 (s, 2H), 2.24 (s, 3H), and 2.22 (s, 3H); ES MS m/z 232 (M+H) Step 2 3-Bromo-4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.04 mol, 5.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 5-aminomethyl-2-methylpyrazine | 0.041 mol, 5.0 g | NCC=1N=CC(=NC1)C | C6H9N3
solvent | water | 25.0 ml | O | H2O
product | 4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one | 5.8 g, 63% | OC1=CC(N(C(=C1)C)CC1=NC=C(N=C1)C)=O | C12H13N3O2
